US07268151B2
To a solution of 2-[2-methoxy-4-(1H-1,2,3-triazol-4-yl)phenyl]pyridine (180 mg, 0.71 mmol) in anhydrous MeOH was added Cs2CO3 (462 mg, 1.42 mmol) and 1-fluoropyridinium triflate (350 mg, 1.42 mmol). The resulting reaction mixture was stirred overnight. The mixture was partitioned between 10% aqueous NaOH (10 ml) and EtOAc (60 mL). The phases were separated and the aqueous layer was extracted with EtOAc (3×60 mL). The combined organic layers were dried (MgSO4), filtered and concentrated. The residue was purified on silica gel (1:2 hexane-ethyl acetate) to afford 2-[4-(3-methoxy-4-pyridin-2-ylphenyl)-2H-1,2,3-triazol-2-yl]pyridine which was dissolved in ether and HCl (1N in ether) was added. The solution was filtered to give a HCl salt as white solid. 1H NMR (500 MHz, CD3OD) δ 8.86-8.47 (m, 1H), 8.72-8.68 (m, 1H), 8.64-8.62 (m, 2H), 8.39-8.37 (m, 1H), 8.26-8.25 (m, 1H), 8.15-8.11 (m, 1H), 8.07-8.04 (m, 1H), 8.02 (m, 1H), 7.91-7.80 (m, 2H), 7.60 (m, 1H). MS (ESI) 330 (M+H+).

reactant | 2-[2-methoxy-4-(1H-1,2,3-triazol-4-yl)phenyl]pyridine | 0.71 mmol, 180 mg | COC1=C(C=CC(=C1)C=1N=NNC1)C1=NC=CC=C1 | C14H12N4O
reactant | Cs2CO3 | 1.42 mmol, 462 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-fluoropyridinium triflate | 1.42 mmol, 350 mg | [O-]S(=O)(=O)C(F)(F)F.F[N+]1=CC=CC=C1
solvent | MeOH | CO | CH4O
product | 2-[4-(3-methoxy-4-pyridin-2-ylphenyl)-2H-1,2,3-triazol-2-yl]pyridine | COC=1C=C(C=CC1C1=NC=CC=C1)C1=NN(N=C1)C1=NC=CC=C1 | C19H15N5O
